US05225513
A mixture of 85 g (0.5 mol) of ethyl 1-methylpipecolinate, 44.6 g (0.5 mol) of N,N-dimethylethanolamine and 0.82 g of dibutyltin oxide was heated at about 145° C. for 30 hours. The ethanol by-product was collected in a Dean-Stark trap. When the rate of ethanol evolution and amount of ethanol collected showed that the reaction was essentially complete, the reaction was heated at about 180° C. until ethanol evolution ceased. The liquid product was purified by distillation at reduced pressure to provide 2-(N,N-dimethylamino)ethyl N-methylpipecolinate.

reactant | ethyl 1-methylpipecolinate | 0.5 mol, 85 g | CN1C(C(=O)OCC)CCCC1 | C9H17NO2
reactant | N,N-dimethylethanolamine | 0.5 mol, 44.6 g | CN(CCO)C | C4H11NO
reactant | dibutyltin oxide | 0.82 g | C(CCC)[Sn](CCCC)=O
product | 2-(N,N-dimethylamino)ethyl N-methylpipecolinate | CN1C(C(=O)OCCN(C)C)CCCC1 | C11H22N2O2
